US06118016
B) 1-{(2-Ethoxycarbonylvinyl)-[4-(4-fluorophenoxy)benzenesulfonyl]-amino}-cyclopentanecarboxylic Acid Benzyl Ester
A solution of 25.0 g (53.2 mmol) of 1-[4-(4-fluorophenoxy)benzenesulfonylamino]-cyclopentanecarboxylic acid benzyl ester and 10.8 mL (106 mmol, 2 equivalents) of ethyl propiolate in 200 mL of dry tetrahydrofuran at 1° C. was treated with 53.2 mL (53.2 mmol, 1 equivalent) of a solution of tetrabutylammonium fluoride in tetrahydrofuran (1M) over 45 minutes. The resulting solution was allowed to warm slowly to ambient temperature and stirred overnight. The tetrahydrofuran was displaced with toluene at reduced pressure, and the toluene solution was washed with water and brine, diluted to 600 mL with toluene, stirred with 90 g of silica gel for three hours, filtered, and concentrated to 25.14 g (83%) of 1-{(2-ethoxycarbonylvinyl)-[4-(4-fluorophenoxy)benzenesulfonyl]amino}-cyclopentanecarboxylic acid benzyl ester as an orange oil. 1H NMR (CDCl3) indicated a 1.5:1 trans/cis ratio.

reactant | 1-[4-(4-fluorophenoxy)benzenesulfonylamino]-cyclopentanecarboxylic acid benzyl ester | 53.2 mmol, 25.0 g | C(C1=CC=CC=C1)OC(=O)C1(CCCC1)NS(=O)(=O)C1=CC=C(C=C1)OC1=CC=C(C=C1)F | C25H24FNO5S
reactant | ethyl propiolate | 106 mmol, 10.8 mL, 2 equivalents | C(C#C)(=O)OCC | C5H6O2
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1M | O1CCCC1 | C4H8O
product | 1-{(2-Ethoxycarbonylvinyl)-[4-(4-fluorophenoxy)benzenesulfonyl]-amino}-cyclopentanecarboxylic Acid Benzyl Ester | C(C1=CC=CC=C1)OC(=O)C1(CCCC1)N(S(=O)(=O)C1=CC=C(C=C1)OC1=CC=C(C=C1)F)C=CC(=O)OCC | C30H30FNO7S
